data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
132,148,[CH3:12][C:13]#[N+:14][CH-:15][CH3:16].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Cl:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:13]([CH3:12])=[N:14][CH:15]2[CH3:16],water,298.15,7.194381057952629,-48.44946199325532
715,776,[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2.[N:14]#[C:15][C:16]#[N+:17][CH-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[CH:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[N:17]=[C:16]3[C:15]#[N:14],water,298.15,11.82140221057359,-60.64698753191655
679,739,[CH3:12][N-:13][N+:14]#[C:15][C:16](=[O:17])[O:18][CH3:19].[Cl:1][C:2]([Cl:3])=[C:4]([Cl:5])[c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1>>[Cl:1][C:2]1([Cl:3])[C:4]([Cl:5])([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[N:13]([CH3:12])[N:14]=[C:15]1[C:16](=[O:17])[O:18][CH3:19],water,298.15,26.325403115145487,-40.36984056261756
2808,3120,[CH3:19][NH:20][C:21](=[O:22])[CH-:23][N+:24]([CH3:25])=[C:26]([C:27]([CH3:28])=[O:29])[C:30](=[O:31])[O:32][CH3:33].[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]#[C:11][C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]2=[C:11]([C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[CH:23]([C:21]([NH:20][CH3:19])=[O:22])[N:24]([CH3:25])[C:26]2([C:27]([CH3:28])=[O:29])[C:30](=[O:31])[O:32][CH3:33],water,298.15,19.68342769096687,-35.71954673569913
4412,5044,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[CH-:11][O+:12]=[C:13]([C:14](=[O:15])[O:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([C:14](=[O:15])[O:16][CH3:17])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[O:12][CH:11]1[C:9]([O:8][CH3:7])=[O:10],water,298.15,10.598999860238353,-44.13926121116962
2056,2283,[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:17]([C:18](=[O:19])[NH:20][CH3:21])([C:22](=[O:23])[O:24][CH3:25])[O:16][C:15]3([C:13]([NH:12][CH3:11])=[O:14])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,15.670499264496794,-61.84483192034416
4756,5431,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18](=[O:19])[O:20][CH3:21])([C:22](=[O:23])[O:24][CH3:25])[N:16]=[C:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,21.21672838819036,-20.42429290241664
4891,5575,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18]#[N:19])[C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[O:16][C:17]2([C:18]#[N:19])[C:20]#[N:21],water,298.15,12.220027165493676,-22.17733942440227
1781,1972,[CH3:18][O:19][C:20](=[O:21])[C:22]#[N+:23][C-:24]([CH3:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:24]([CH3:25])([C:26](=[O:27])[O:28][CH3:29])[N:23]=[C:22]2[C:20]([O:19][CH3:18])=[O:21],water,298.15,8.60816235802287,-44.82047111252135
4850,5532,[CH3:10][NH:11][C:12](=[O:13])[C:14]([CH3:15])=[O+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:17]([C:18](=[O:19])[NH:20][CH3:21])([C:22](=[O:23])[NH:24][CH3:25])[O:16][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,12.184210123483396,-45.74822215648955
2134,2368,[CH3:1][O:2][C:3]([F:4])=[C:5]([F:6])[F:7].[CH3:8][NH:9][C:10](=[O:11])[C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)=[N+:19]([CH3:20])[C-:21]([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1>>[CH3:1][O:2][C:3]1([F:4])[C:5]([F:6])([F:7])[C:12]([C:10]([NH:9][CH3:8])=[O:11])([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[N:19]([CH3:20])[C:21]1([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,35.26508403885954,-30.17641751469084
